US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(6-chloro-pyrimidin-4-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
A mixture of 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (0.1 g, 0.21 mmol), potassium carbonate (59 mg, 0.42 mmol), CuCl (2 mg, 0.021 mmol), tris[2-(2-methoxyethoxy)-ethyl]-amine (1.5 μL) and 4,6-dichloropyrimidine (32 mg, 0.21 mmol) in xylene (5 mL) was stirred and boiled for 18 h. The mixture was cooled, washed with water, ammonia in water (10%) and water again. Evaporation of the solvent yielded a residue which was purified by chromatography on silica gel (ethyl acetate/n-hexane 1:2) to yield the desired product (29 mg, 24%), m.p. 212-214° C. and MS: m/e=584.1 (M+H+).

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 0.21 mmol, 0.1 g | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O2
reactant | potassium carbonate | 0.42 mmol, 59 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tris[2-(2-methoxyethoxy)-ethyl]-amine | 1.5 μL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | 4,6-dichloropyrimidine | 0.21 mmol, 32 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | CuCl | 0.021 mmol, 2 mg | Cl[Cu]
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(6-chloro-pyrimidin-4-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 29 mg, 24% | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)C3=NC=NC(=C3)Cl)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C26H20ClF6N5O2
